US08835422B2
2,2-dimethyl-1,3-propanediamine (1.02 g, 10.0 mmol) was dissolved by stirring in 15 mL of MeOH. To this solution was added methyl 2-hydroxy-2-methoxy acetate (1.20 g, 10.0 mmol) followed by the addition of methanesulfonic acid (0.65 mL, 10.0 mol). The mixture was stirred at room temperature for 45 minutes and transferred to a Parr bottle, diluted with 25 mL MeOH and treated with 10% palladium on carbon (0.533 g, 0.5 mmol). The mixture was hydrogenated at 50 psi overnight. The mixture was then filtered through celite and the celite pad was washed with MeOH and the filtrate was concentrated in vacuo. The residue was redissolved in 40 mL MeOH and cooled in an ice bath to below 10° C. in an ice-water bath. Sodium methoxide (0.81 g, 15.0 mmol) was added and the mixture was heated to reflux for 2 hours and then cooled to less than 20° C. 0.54 mL water was added followed by the addition of di-tert-butyl dicarbonate (2.18 g, 10.0 mmol) and the mixture stirred overnight. Water (25 mL) was added and the mixture concentrated in vacuo to remove the MeOH. EtOAc (50 mL) was added and the mixture stirred until two clear phases resulted. The phases were separated and the aqueous phase was extracted twice with 25 mL EtOAc. The combined organic phases were washed with 1M aqueous phosphoric acid and brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by gradient elution (ISCO RediSep 40, 100% EtOAc to 20% acetonitrile:EtOAc) to give the product, 1-N-Boc-6,6-dimethyl-1,4-diazepin-3-one: 2,2-dimethyl-1,3-propanediamine as a white solid (0.93 g, 38%). LCMS (+ESI) m/z: 187.1 [M+H-56]+1 1H-NMR (CDCl3) δ 6.48 (s, 0.4H), 6.22 (s, 0.6H), 4.14-3.98 (bd, 2H), 3.36-3.23 (bd, 2H), 2.98 (d, 2H), 1.46 (s, 9H), 0.94 (s, 6H).

reactant | 2,2-dimethyl-1,3-propanediamine | 10.0 mmol, 1.02 g | CC(CN)(CN)C | C5H14N2
reactant | methanesulfonic acid | 10.0 mol, 0.65 mL | CS(=O)(=O)O | CH4O3S
reactant | Sodium methoxide | 15.0 mmol, 0.81 g | C[O-].[Na+]
reactant | di-tert-butyl dicarbonate | 10.0 mmol, 2.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | MeOH | 15 mL | CO | CH4O
reactant | MeOH | 25 mL | CO | CH4O
catalyst | palladium on carbon | 0.5 mmol, 0.533 g | [Pd] | Pd
solvent | Water | 25 mL | O | H2O
solvent | water | 0.54 mL | O | H2O
product | 1-N-Boc-6,6-dimethyl-1,4-diazepin-3-one | C(=O)(OC(C)(C)C)N1CC(N=CC(C1)(C)C)=O | C12H20N2O3
